US08754242B2
A mixture of (1RS,2SR,6RS,7SR)-4-(2,4,6-trimethylphenyl)-10-oxatricyclo-[5.2.1.02,6]dec-8-en-3,5-dione (400 mg, 1.4 mmol), 2,6-bis(trifluoromethyl)-4-chloropyridine (531 mg, 1.4 mmol), palladium acetate (16 mg, 0.07 mmol), 2′-dicyclohexylphosphino-2,6-dimethoxy-1,1′-biphenyl (67 mg, 0.14 mmol), potassium formate (353 mg, 4.2 mmol), tetrabutylammonium chloride (389 mg, 1.4 mmol) and copper iodide (53 mg, 0.28 mmol) in dry N,N-dimethylformamide (6 ml) are heated, at 150° C. for 30 minutes under microwave irradiation. Purification by preparative reverse-phase HPLC gives (1RS,2SR,6RS,7SR,8RS)-8-[2,6-bis(trifluoromethyl)pyridin-4-yl]-4-(2,4,6-trimethylphenyl)-10-oxatricyclo[5.2.1.02,6]decane-3,5-dione.

reactant | (1RS,2SR,6RS,7SR)-4-(2,4,6-trimethylphenyl)-10-oxatricyclo-[5.2.1.02,6]dec-8-en-3,5-dione | 1.4 mmol, 400 mg | CC1=C(C(=CC(=C1)C)C)C1C(C2C3C=CC(C2C1=O)O3)=O | C18H18O3
reactant | 2,6-bis(trifluoromethyl)-4-chloropyridine | 1.4 mmol, 531 mg | FC(C1=NC(=CC(=C1)Cl)C(F)(F)F)(F)F | C7H2ClF6N
reactant | 2′-dicyclohexylphosphino-2,6-dimethoxy-1,1′-biphenyl | 0.14 mmol, 67 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | potassium formate | 4.2 mmol, 353 mg | C(=O)[O-].[K+]
catalyst | tetrabutylammonium chloride | 1.4 mmol, 389 mg | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
catalyst | palladium acetate | 0.07 mmol, 16 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | copper iodide | 0.28 mmol, 53 mg | [Cu](I)I
product | (1RS,2SR,6RS,7SR,8RS)-8-[2,6-bis(trifluoromethyl)pyridin-4-yl]-4-(2,4,6-trimethylphenyl)-10-oxatricyclo[5.2.1.02,6]decane-3,5-dione | FC(C1=NC(=CC(=C1)C1C2C3C(C(C(C3C(C1)O2)=O)C2=C(C=C(C=C2C)C)C)=O)C(F)(F)F)(F)F | C25H21F6NO3
